US07977339B2
Step D: 3-[1-(tert-Butoxycarbonyl)-4-hydroxypiperidin-4-yl]-1-naphthoic acid.
To a solution of 1.5 g (4.2 mmol) of tert-butyl 4-(4-formyl-2-naphthyl)-4-hydroxypiperidine-1-carboxylate in 25 mL of 2-methyl-2-propanol was added 2.3 mL (21 mmol) of 2-methyl-2-butene followed by dropwise addition of a solution of 1.00 g (8.45 mmol) of sodium dihydrogen phosphate and 877 mg (59.7 mmol) of sodium chlorite in 15 mL of water. The resulting mixture was stirred at ambient temperature for 2 h then evaporated in vacuo to remove all volatiles. The residue was diluted with water (5 mL) and an aqueous 2 N HCl solution was then added dropwise to the stirred mixture until a pH of 4 was achieved. The aqueous phase was then extracted with ethyl acetate (3×5 mL) and the combined organic layers were washed with brine (25 mL), dried over magnesium sulfate, filtered and evaporated in vacuo to yield the crude title compound as a colorless oil. LC/MS 394.2 (M+23).

reactant | tert-butyl 4-(4-formyl-2-naphthyl)-4-hydroxypiperidine-1-carboxylate | 4.2 mmol, 1.5 g | C(=O)C1=CC(=CC2=CC=CC=C12)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C21H25NO4
reactant | 2-methyl-2-butene | 21 mmol, 2.3 mL | CC(C)=CC | C5H10
reactant | sodium dihydrogen phosphate | 8.45 mmol, 1.00 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 59.7 mmol, 877 mg | Cl(=O)[O-].[Na+]
solvent | 2-methyl-2-propanol | 25 mL | CC(C)(C)O | C4H10O
solvent | water | 15 mL | O | H2O
product | 3-[1-(tert-Butoxycarbonyl)-4-hydroxypiperidin-4-yl]-1-naphthoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C=1C=C(C2=CC=CC=C2C1)C(=O)O | C21H25NO5
